US03943169
To the mixture of 9.0 parts by weight of 3,4-diethoxytoluene, 6.0 parts by weight of succinic anhydride and 100 parts by volume of carbon tetrachloride is added 27 parts by weight of anhydrous aluminum chloride. The mixture is stirred for 1 hour at 25°C and mildly refluxed for 2 hours. After cooling, 70 parts by weight of ice and 70 parts by volume of concentrated hydrochloric acid are added to the mixture and thereto is further added methylenedichloride and the whole mixture is shaken. The organic solvent layer is separated and extracted with a 2N-aqueous solution of sodium carbonate. The aqueous solution is adjusted with diluted hydrochloric acid to pH 2.5, whereby 3-(2'-methyl-4',5'-diethoxybenzoyl)-propionic acid is obtained as crystals. Recrystallization of the crystals gives 10.0 parts by weight of colorless plates melting at 116°-117°C.

reactant | 3,4-diethoxytoluene | C(C)OC=1C=C(C=CC1OCC)C | C11H16O2
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
reactant | methylenedichloride | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(2'-methyl-4',5'-diethoxybenzoyl)-propionic acid | CCCOC=1C(=CC=C(C(=O)CCC(=O)O)C1)OCC | C15H20O5
